US07468464B2
Acetic anhydride (1.58 ml, 16.7 mmol) was added to a solution of 4-cyclohexylcarbonyl resorcinol (1.47 g, 6.68 mmol) in tetrahydrofuran (15 ml) at room temperature, followed by triethylamine (2.80 ml, 20.0 mmol) and the solution stirred for 4 h. At this time, TLC showed the clean formation of a single product (Rf 0.71) and no starting material (Rf 0.40) (Note 5). The solvent was removed under reduced pressure to give 4-cyclohexylcarbonyl resorcinol diacetate as a light-yellow oil (3.0 g) and used without further purification for the next synthetic step (Note 6).

reactant | Acetic anhydride | 16.7 mmol, 1.58 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-cyclohexylcarbonyl resorcinol | 6.68 mmol, 1.47 g | C1(CCCCC1)C(=O)C1=C(C=C(O)C=C1)O | C13H16O3
reactant | triethylamine | 20.0 mmol, 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-cyclohexylcarbonyl resorcinol diacetate | 3.0 g | C(C)(=O)OC1=CC(OC(C)=O)=C(C=C1)C(=O)C1CCCCC1 | C17H20O5
